US05576324
3-Ethyl-5-(2-methyl-2-propenyl)oxy-8-methylcarbostyril
Using 3-ethyl-5-hydroxy-8-methylcarbostyril (0.91 g, 4.87 mmol) and 3-chloro-2-methyl-1-propene (0.485 g, 5.36 mmol), the procedure of Reference Example 31 was followed (reaction, post-treatment, and recrystallization from chloroform-n-hexane) to obtain 0.94 g of the title compound as pale brown crystals (75.1%).

reactant | 3-ethyl-5-hydroxy-8-methylcarbostyril | 4.87 mmol, 0.91 g | C(C)C=1C(NC2=C(C=CC(=C2C1)O)C)=O | C12H13NO2
reactant | 3-chloro-2-methyl-1-propene | 5.36 mmol, 0.485 g | ClCC(=C)C | C4H7Cl
solvent | chloroform n-hexane | C(Cl)(Cl)Cl.CCCCCC
product | 3-Ethyl-5-(2-methyl-2-propenyl)oxy-8-methylcarbostyril | 0.94 g, 75.1% | C(C)C=1C(NC2=C(C=CC(=C2C1)OCC(=C)C)C)=O | C16H19NO2
